US06166006
Under nitrogen atmosphere, to a solution of propyl magnesium bromide in tetrahydrofuran (2M, 250 g) was added diethyl phosphite (18.0 g) under ice-cooling, and the mixture was stirred at room temperature for 3 hours. To the reaction mixture was added benzyl bromide (24.7 ml), and the mixture was refluxed for 5 hours. The reaction mixture was vigorously stirred and added to concentrated hydrochloric acid-ice to stop the reaction. The mixture was extracted with ethyl acetate and concentrated. The residue was separated and purified with column chromatography (ethyl acetate ethyl acetate/ethanol=3:1) to give benzyldipropylphosphine oxide (25.33 g) as colorless crystals.

reactant | propyl magnesium bromide | C(CC)[Mg]Br
reactant | diethyl phosphite | 18.0 g | P(OCC)(OCC)[O-]
reactant | benzyl bromide | 24.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | tetrahydrofuran | 2M, 250 g | O1CCCC1 | C4H8O
product | benzyldipropylphosphine oxide | 25.33 g | C(C1=CC=CC=C1)P(CCC)(CCC)=O | C13H21OP
